US07335799B2
Under Ar atmosphere, to a solution of 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester (12.37 g, 28.2 mmol) in methanol (240 mL) was added sodium borohydride (0.45 g, 13.7 mmol) under cooling with an ice water bath. The mixture was stirred for 5 h and water (480 mL) and dichloromethane (200 mL) were added. The aqueous layer was extracted with dichloromethane (2×200 mL). The combined organic layers were washed with saturated NaHCO3 solution (150 mL and saturated NaCl solution (150 mL), dried over MgSO4, and concentrated under vacuum to give 3-(3-{[3-(2-ethoxycarbonyl-2-methylpropyl)-phenyl]-hydroxymethyl}-phenyl)-2,2-dimethylpropionic acid ethyl ester (12.4 g, 100%) as a colorless oil, which was used for the next step without further purification. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 7.20-7.18 (m, 4H), 7.10 (s, 2H), 7.00-6.98 (m, 2H), 5.69 (d, 1H, J=3.2 Hz), 4.02 (q, 4H, J=7.1 Hz), 2.97 (d, 1H, J=3.2 Hz), 2.81 (s, 4H), 1.19 (t, 6H, J=7.1 Hz), 1.13 (s, 12H). 13C NMR (75 MHz, CDCl3=77.23 ppm): δ (ppm): 177.6, 143.8, 138.2, 129.3, 128.5, 128.1, 124.8, 76.1, 60.5, 46.3, 43.6, 25.1, 25.0, 14.3. HRMS (LSIMS, gly): Calcd for C27H35O4 (M+H−H2O): 423.2535, found: 423.2542.

reactant | 3-{3-[3-(2-ethoxycarbonyl-2-methyl-propyl)-benzoyl]-phenyl}-2,2-dimethylpropionic acid ethyl ester | 28.2 mmol, 12.37 g | C(C)OC(C(CC1=CC(=CC=C1)C(C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)=O)(C)C)=O | C27H34O5
reactant | sodium borohydride | 13.7 mmol, 0.45 g | [BH4-].[Na+]
reactant | water | 480 mL | O | H2O
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | methanol | 240 mL | CO | CH4O
product | 3-(3-{[3-(2-ethoxycarbonyl-2-methylpropyl)-phenyl]-hydroxymethyl}-phenyl)-2,2-dimethylpropionic acid ethyl ester | 12.4 g, 100% | C(C)OC(C(CC1=CC(=CC=C1)C(O)C1=CC(=CC=C1)CC(C)(C)C(=O)OCC)(C)C)=O | C27H36O5
